US08198279B2
Phenyl 2-(pyridin-3-yloxy)-5-(trifluoromethyl)phenylcarbamate
A yellow solution of 2-(pyridin-3-yloxy)-5-(trifluoromethyl)aniline (263 mg, 1.035 mmol) and pyridine (108 μL, 1.341 mmol) in dry THF (8 mL) was treated dropwise with phenyl chloroformate (156 μL, 1.242 mmol) during 5 min at 0° C. The resulting suspension yellow suspension was stirred at 0° C. for an additional 5 min and then allowed to warm up to room temperature and stirred for 3 h. The yellow suspension was filtered over cotton, washed with Et2O and diluted with EtOAc. The yellow solution was washed with sat. aqueous NaHCO3 (30 mL) and H2O (30 mL), dried and concentrated to dryness to give a yellow oil. Purification by column gave a tan solid. Yield: 300 mg (77%).

reactant | 2-(pyridin-3-yloxy)-5-(trifluoromethyl)aniline | 1.035 mmol, 263 mg | N1=CC(=CC=C1)OC1=C(N)C=C(C=C1)C(F)(F)F | C12H9F3N2O
reactant | pyridine | 1.341 mmol, 108 μL | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 1.242 mmol, 156 μL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | Phenyl 2-(pyridin-3-yloxy)-5-(trifluoromethyl)phenylcarbamate | N1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)NC(OC1=CC=CC=C1)=O | C19H13F3N2O3
